US04988694
3-Amino-4-bromo-2-chloro-6-chloroacetyl-pyridine
0.8 g (3.2 mmol) of 6-acetyl-3-amino-4-bromo-2-chloro-pyridine are dissolved in 5 ml of CHCl3, and 462 mg (3.42 mmol) of SO2Cl2, dissolved in 5 ml of CHCl3, are added. The mixture is stirred at room temperature for 30 minutes and then poured onto NaHCO3 solution and extracted with CH2Cl2.

reactant | 6-acetyl-3-amino-4-bromo-2-chloro-pyridine | 3.2 mmol, 0.8 g | C(C)(=O)C1=CC(=C(C(=N1)Cl)N)Br | C7H6BrClN2O
reactant | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Amino-4-bromo-2-chloro-6-chloroacetyl-pyridine | NC=1C(=NC(=CC1Br)C(CCl)=O)Cl | C7H5BrCl2N2O
